US05591846
N,N'-Bis[2,3-bis(acetyloxy)propyl]-5-[(2,5-dibromo-1-oxopentyl)amino]-2,4,6-triiodo-1,3-benzenedicarboxamide
2,5-Dibromopentanoyl bromide (11 g, 34 mmol ) was added dropwise to a stirred solution of N,N'-bis[2,3bis(acetyloxy)propyl]-5-amino-2,4,6-triiodo-1,3-benzenedicarboxamide (23.0 g, 26.3 mmol) in N,N-dimethylacetamide (240 ml) at 0°. After the addition, the reaction mixture was stirred at 0° for 1 hour, and then at room temperature for 20 hours. The solvent was removed in vacuo at 45° and the resulting solid was dissolved in ethyl acetate (400 ml). The organic layer was washed with saturated aqueous sodium bicarbonate (1×70 ml), water (1×70 ml) and saturated sodium chloride (1×70 ml). After drying over magnesium sulfate, the solvent was removed in vacuo to obtain a yellow residue (28 g). Purification by column chromatography over silica gel furnished pure N,N'-bis[2,3-bis(acetyloxy)propyl]-5-[(2,5-dibromo-1-oxopentyl)amino]-2,4,6-triiodo-1,3-benzenedicarboxamide as an off-white crystalline compound (20.2 g, yield 69%).

reactant | 2,5-Dibromopentanoyl bromide | 34 mmol, 11 g | BrC(C(=O)Br)CCCBr | C5H7Br3O
reactant | N,N'-bis[2,3bis(acetyloxy)propyl]-5-amino-2,4,6-triiodo-1,3-benzenedicarboxamide | 26.3 mmol, 23.0 g | C(C)(=O)OC(CNC(=O)C1=C(C(=C(C(=C1I)N)I)C(=O)NCC(COC(C)=O)OC(C)=O)I)COC(C)=O | C22H26I3N3O10
solvent | N,N-dimethylacetamide | 240 ml | CN(C(C)=O)C | C4H9NO
product | N,N'-Bis[2,3-bis(acetyloxy)propyl]-5-[(2,5-dibromo-1-oxopentyl)amino]-2,4,6-triiodo-1,3-benzenedicarboxamide | 28 g | C(C)(=O)OC(CNC(=O)C1=C(C(=C(C(=C1I)NC(C(CCCBr)Br)=O)I)C(=O)NCC(COC(C)=O)OC(C)=O)I)COC(C)=O | C27H32Br2I3N3O11
